US09421205B2
(b) 3-(2-(2-((3-(4-Methylpiperazin-1-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)benzoic acid (I30)
To a solution of tert-butyl 3-(2-(2-((3-(4-methylpiperazin-1-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)benzoate (I29) (0.048 g, 0.088 mmol) in DCM (3 mL) was added TFA (0.5 mL); the reaction was then stirred for 35 minutes at room temperature before concentrating under reduced pressure. The residue was taken up in toluene (2×10 mL) and concentrated under reduced pressure. The resulting residue was taken up in DCM (3 mL) and TFA (0.5 mL) was added. The resulting solution was stirred at room temperature for 1 hour then the volatiles removed by evaporation under reduced pressure. The residue was taken up in toluene (2×20 mL) and concentrated under reduced pressure to give the title compound (I30) in quantative yield; 1H NMR (400 MHz, d6-Acetone) b 9.14 (s, 1H), 8.62 (s, 1H), 7.96 (s, 1H), 7.89 (d, J=7.7 Hz, 1H), 7.74 (bs, 1H), 7.54 (d, J=7.7 Hz, 1H), 7.44 (dd, J=7.6, 7.6 Hz, 1H), 7.34 (bd, J=8.0 Hz, 1H), 7.25 (dd, J=8.1, 8.1 Hz, 1H), 6.77 (dd, J=8.1, 1.8 Hz, 1H), 3.60 (m, 4H), 3.47 (m, 4H), 3.20 (m, 4H), 2.94 (s, 3H). LCMS Method C: rt 4.93 min; m/z 486.2 [M+H]+.

reactant | tert-butyl 3-(2-(2-((3-(4-methylpiperazin-1-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)benzoate | 0.088 mmol, 0.048 g | CN1CCN(CC1)C=1C=C(C=CC1)NC1=NC=C(C(=N1)CCC=1C=C(C(=O)OC(C)(C)C)C=CC1)C(F)(F)F | C29H34F3N5O2
reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 3-(2-(2-((3-(4-Methylpiperazin-1-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)benzoic acid | CN1CCN(CC1)C=1C=C(C=CC1)NC1=NC=C(C(=N1)CCC=1C=C(C(=O)O)C=CC1)C(F)(F)F | C25H26F3N5O2
